US06632810B2
Synthesis of N,N′-bis[(4,5,6-trimethoxybenzimidazol-2-yl)methyl]piperazine:
2-Chloromethyl-4,5,6-trimethoxybenzimidazole (250 mg) and piperazine (34 mg) were reacted in the same manner as in Example 1 to obtain the title compound as a free base.

reactant | 2-Chloromethyl-4,5,6-trimethoxybenzimidazole | 250 mg | ClCC=1NC2=C(N1)C=C(C(=C2OC)OC)OC | C11H13ClN2O3
reactant | piperazine | 34 mg | N1CCNCC1 | C4H10N2
product | N,N′-bis[(4,5,6-trimethoxybenzimidazol-2-yl)methyl]piperazine | COC1=C(C(=CC=2N=C(NC21)CN2CCN(CC2)CC=2NC1=C(N2)C=C(C(=C1OC)OC)OC)OC)OC | C26H34N6O6
